US07259266B2
Step 2. Preparation of ethyl 8-chloro-6-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To 18 g (63.7 mmole) of 3-chloro-2-hydroxy-5-iodobenzaldehyde in 16 mL of DMF was added 14.3 mL (16.1 g, 95.6 mmole) of ethyl trifluorocrotonate and 9.69 g (70 mmole) of K2CO3. The mixture was heated to 100° C. for 2 h. The mixture was allowed to cool, treated with 300 mLs of H2O and extracted three times with Et2O. The combined extracts were washed with water and filtered through a silica plug (4.5×6 cm). The silica was washed with methylene chloride and combined filtrates concd to give 10.39 g of a yellow solid. Recystalization in hexanes gave 6.64 g (24.1%) of a crystalline, yellow solid: 1H NMR (CDCl3/400 MHz) 1.35 (t, 3H, J=7.1 Hz), 4.33 (m, 2H), 5.81 (q, 1H, J=6.6 Hz), 7.44 (d, 1H, J=2.0 Hz), 7.62 (s, 1H), 7.66 (d, 1H, J=2.0 Hz); 19F NMR (CDCl3/400 MHz) −79.0 (d, 3F, J=6.8 Hz); 13C NMR (CDCl3/100 MHz) 13.1, 60.8, 70.4 (q, J=33.7 Hz), 82.6 (C-I), 117.7, 121.2, 121.8, 121.9 (q, J=287.2 Hz), 133.6, 134.9, 139.9, 147.9, 162.0; MS (ESI+) 433 (M+1, 100); HRMS (EI) m/z calcd for (C13H9O3IClF3) 431.9237, found 431.9221.

reactant | 3-chloro-2-hydroxy-5-iodobenzaldehyde | 63.7 mmole, 18 g | ClC=1C(=C(C=O)C=C(C1)I)O | C7H4ClIO2
reactant | ethyl trifluorocrotonate | 95.6 mmole, 14.3 mL, 16.1 g | FC(/C=C/C(=O)OCC)(F)F | C6H7F3O2
reactant | K2CO3 | 70 mmole, 9.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 300 mLs | O | H2O
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
product | ethyl 8-chloro-6-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 10.39 g | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)I | C13H9ClF3IO3
